Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea/vomiting 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr ___ is a ___ man who presented with LUQ pain, nausea, 
vomiting, chills, and diaphoresis likely secondary to 
cannabinoid hyperemesis syndrome complicated by ___ due to 
dehydration. 

Mr. ___ reported that on ___ while playing basketball in the 
heat, he started to feel nauseated, fatigued, and unwell and 
subsequently went home to watch the basketball game and recover.
Symptoms awoke him from sleep on the morning of arrival. He had 
multiple episodes ___, nonbloody, vomiting associated 
with severe abdominal pain. He was unable to tolerate PO intake 
and also felt lightheaded on standing. Patient had a small 
amount of marijuana this morning in an attempt to settle his 
stomach, but to no effect.

He reports 5 prior episodes of similar symptoms, 2 of which 
required hospital admissions, most recently in ___. During his 
most recent episode, the workup was negative and patient was 
D/C'd the night of admission.
 
Past Medical History:
History of childhood epilepsy with no seizures since around ___
 
Social History:
___
Family History:
Mom has high blood pressure.
 
Physical Exam:
ADMISSION EXAM
===========================
Vitals: 97.7 PO 154 / 89 L Lying 72 20 99 Ra  
General: Uncomfortable appearing, slightly lethargic, AAOx3 
HEENT: Sclerae anicteric, MM slightly dry, oropharynx clear. 
Slightly photophobic on exam (induced nausea). No nystagmus.    
Neck: supple. Full range of motion without discomfort.  
Lungs: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG  
Abdomen: soft, ND. Mildly tender diffusely. Bowel sounds 
present, no tap tenderness or guarding, no organomegaly. 
Negative ___ sign.  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN ___ intact. Strength ___ Bilaterally distally and 
proximally in Upper and lower extremities. No sensory deficits 
in Upper or lower extremities. Romberg deferred at this time

DISCHARGE EXAM
==================================
Vitals:  98 | 131/83 | 102 | 20 | 99% RA
General: well appearing, AAOx3 
HEENT: Sclerae anicteric, MM slightly dry, oropharynx clear. No 
nystagmus.    
Neck: supple. Full range of motion without discomfort.  
Lungs: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG  
Abdomen: soft, ND NT. Bowel sounds present, no tap tenderness or 
guarding, no organomegaly. 
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN ___ intact. Strength ___ Bilaterally distally and 
proximally in Upper and lower extremities. No sensory deficits 
in Upper or lower extremities. 

 
Pertinent Results:
ADMISSION LABS
========================

___ 05:35AM BLOOD ___ 
___ Plt ___
___ 05:35AM BLOOD ___ 
___
___ 05:35AM BLOOD ___

___ 05:35AM BLOOD ___
___ 05:35AM BLOOD ___ 
___

IMAGING
================================
CT Abdomen/Pelvis
1. No acute ___ finding to explain patient's 
abdominal pain.
2. Mild periportal edema and gallbladder wall edema may 
represent third
spacing from IV fluid hydration

RENAL U.S.Study Date of ___
Unremarkable renal ultrasound.  No evidence of renal artery 
stenosis.

DISCHARGE LABS
================================
___ 03:15PM BLOOD ___ 
___
___ 03:15PM BLOOD ___
 
Brief Hospital Course:
Mr ___ is a ___ man who presented with LUQ pain, nausea, 
vomiting, chills, and diaphoresis likely secondary to 
cannabinoid hyperemesis syndrome complicated by ___ due to 
dehydration. 

He had multiple episodes NBNB vomiting associated with severe 
abdominal pain the morning of admission. He was unable to 
tolerate PO intake and also felt lightheaded on standing. A hot 
shower that morning briefly improved his symptoms, but they 
returned upon leaving the shower.

He reports 5 prior episodes of similar symptoms, 2 of which 
required hospital admissions, most recently in ___. Patient 
does not believe he was told any cause of his symptoms, and was 
discharged both times the same day

In ED, patient was found to be in moderate distress, writing in 
bed. His labs were notible for a Cr of 1.3. An U/S and abdominal 
CT both showed no ___ findings to explain his 
presentation. Patient was given 3L IVF and admitted to floor for 
monitoring. A ___ BMP showed improved renal function with Cr of 
1.0 and patient's appetite greatly improved overnight. He was 
discharged in the AM feeling back to his normal self. Given 
patient's acute onset of symptoms, rapid resolution, and in the 
setting of chronic marijuana use, his presentation is most 
consistent with cannabinoid hyperemesis syndrome. Patient was 
counciled about the cause of his symptoms and about cessation of 
marajuana.

TRANSITIONAL ISSUES
=================================
- BP was slightly elevated on admission. Please f/u BP when 
patient is more comfortable to ensure BP is within normal range
- Patient endorsed frequent headaches over prior month. Asked 
him to discuss relieve and further workup with his PCP 
- ___ with patient whether he frequent cannabinoid use is 
causing significant detriment to quality of life and assess 
patient's desire for help in cessation.
- Cr at discharge was 1 

========================================
Attending statement: 

I performed a history and physical examination of the patient 
and discussed the discharge plan with Dr. ___. I reviewed 
the resident’s discharge summary and agree with the documented 
findings and plan of care. Day of discharge management > 30 
minutes.  

Date of service: ___
Today's date: ___

___, MD, PharmD
HMED Attending
==========================================
 
Medications on Admission:
none 
 
Discharge Medications:
none 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
- Cannabinoid hyperemesis syndrome

Secondary diagnosis
- Prerenal ___ in setting of dehydration and poor PO.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you at ___. 

Why was I here? 
- You had repeated vomiting and inability to keep food down
- You were severely dehydrated 
- This likely was from smoking marijuana 

What was done while I was here? 
- We replaced your fluids

What should I do when I get home? 
- Try to stay adequately hydrated during outdoor activity in the 
summer
- Stop using marijuana as it likely caused your nausea and 
vomiting

 
Followup Instructions:
___